US06211242B1
To a solution of 4-nitro-N-methyl-N-[2-(3-phthalimidoprop-1-yloxy)phenyl]benzamide (760 mg) in ethanol (15 ml) was added hydrazine hydrate (828 mg) and the solution was stirred at ambient temperature for 1 days. After evaporation in vacuo, the residue was diluted with ethyl acetate and then the organic solution was washed successively with saturated sodium bicarbonate aqueous solution and brine. Drying, filtering and removal of solvents afforded 4-nitro-N-methyl-N-[2-(3-aminoprop-1-yloxy)phenyl]benzamide (422 mg) as a yellow oil.

reactant | 4-nitro-N-methyl-N-[2-(3-phthalimidoprop-1-yloxy)phenyl]benzamide | 760 mg | [N+](=O)([O-])C1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1 | C25H21N3O6
reactant | hydrazine hydrate | 828 mg | O.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-nitro-N-methyl-N-[2-(3-aminoprop-1-yloxy)phenyl]benzamide | 422 mg | [N+](=O)([O-])C1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCN)C)C=C1 | C17H19N3O4
